US07531532B2
After adding 10% palladium-carbon (26.2 mg) to a solution of benzyl [4-(2-{[4-(azetidin-1-yl)piperidine-1-carbonyl]amino}pyridin-4-yloxy)-2-fluorophenyl]carbamate (128 mg) in tetrahydrofuran (10 ml), the mixture was stirred for 16 hours at room temperature under a hydrogen atmosphere. The catalyst was filtered and washed with tetrahydrofuran (4 ml) to provide a solution of 4-(azetidin-1-yl)piperidine-1-carboxylic acid [4-(4-amino-3-fluorophenoxy)pyridin-2-yl]amide in tetrahydrofuran (approximately 14 ml)

reactant | benzyl [4-(2-{[4-(azetidin-1-yl)piperidine-1-carbonyl]amino}pyridin-4-yloxy)-2-fluorophenyl]carbamate | 128 mg | N1(CCC1)C1CCN(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(OCC1=CC=CC=C1)=O)F | C28H30FN5O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 26.2 mg | [C].[Pd]
product | 4-(azetidin-1-yl)piperidine-1-carboxylic acid [4-(4-amino-3-fluorophenoxy)pyridin-2-yl]amide | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCC2)C=C1)F | C20H24FN5O2
